Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of asthma who presents with shortness of breath. On
___ of this week, patient reports that he was experiencing 
SOB
when he woke up, took a warm shower and he began to feel dizzy.
He then presented to ___ where he was admitted
until ___. While there, he received steroids, magnesium, 
and
nebs. He was discharged on ___ to home, and went to see his
PCP because he still was not feeling well. PCP then sent him to
___ ED because she was concerned about his breathing. He
reports that when he arrived in the ED, his SOB was rated as
___. His asthma has never been this bad in the past. He was
diagnosed around age ___, and triggers were mainly exercise. He
uses his rescue inhaler maybe ___, no nocturnal 
awakenings,
never hospitalized or intubated before. He was prescribed
prednisone only once in the past for his asthma. In terms of
triggers for this most recent exacerbation, the patient
speculates that it may be due to his dog, which he recently got
about 2.5 months ago vs. marijuana which he smokes occasionally
and did smoke on ___ prior to this episode. Otherwise, he
denies any fevers, chills, recent URI or illness, recent travel.
No sick contacts.

In the ED:
- Initial vital signs were notable for: HR 116, RR 34, 90% RA
- Exam notable for:
Heart: Tachycardic, RR, no MRG. No peripheral edema. 
Lungs: Diffuse expiratory wheezes. Retractions. Tachypneic.

- Labs were notable for:
WBC 14.2
K 5.7 (hemolyzed)
VBG 7.37/54

- Studies performed include:
CXR: No acute cardiopulmonary abnormality.

- Patient was given:
___ 12:52IVMethylPREDNISolone Sodium Succ 80 mg
___ 12:52IHIpratropium-Albuterol Neb 1 NEB
___ 12:53IVMagnesium Sulfate2gm
___ 12:53IVFNS1000 mL
___ 13:03IHIpratropium-Albuterol Neb 1 NEB
___ 13:18IHIpratropium-Albuterol Neb 1 NEB
___ 17:25IHAlbuterol 0.083% Neb Soln 1 NEB
___ 22:51IHAlbuterol 0.083% Neb Soln 1 NEB

- Consults: none

Vitals on transfer: T 97.5F, HR 82, BP 151/79, RR 18, 96% RA

Upon arrival to the floor, patient endorses the above history. 
He
reports that he feels much better, but still having some SOB. He
feels like his rescue inhaler helps him more than the nebs. Also
reports that the fan is helping as well.

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.

 
Past Medical History:
Asthma
 
Social History:
___
Family History:
No family history of asthma.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: 24 HR Data (last updated ___ @ 228)
    Temp: 97.5 (Tm 97.5), BP: 151/79, HR: 82, RR: 18, O2 sat:
96%, O2 delivery: Ra, Wt: 186.5 lb/84.6 kg  
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. Sclera anicteric and without injection. 
ENT: MMM. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Getting short of breath after full sentences. No accessory
muscle use. Diffuse wheezes throughout.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTR: No clubbing, cyanosis, or edema. 
NEUROLOGIC: AOx3, moving all extremities.

DISCHARGE PHYSICAL EXAM:
=========================
24 HR Data (last updated ___ @ 2216)
    Temp: 98.7 (Tm 98.7), BP: 117/80 (113-124/66-86), HR: 84
(84-111), RR: 18 (___), O2 sat: 95% (93-96), O2 delivery: RA   

GENERAL: Middle-aged man in NAD
EYES: Sclera anicteric 
ENT: MMM. 
CARDIAC: RRR - no murmurs/rubs/gallops.
RESP: +Mild wheezes, significantly improved. No crackles or
rhonchi. No accessory muscle use.
ABDOMEN: +BS, S, NT, ND 
EXTR: No edema. 
NEUROLOGIC: AOx3, moving all extremities.

 
Pertinent Results:
ADMISSION LABS:
================
___ 12:45PM BLOOD WBC-14.2* RBC-5.60 Hgb-14.9 Hct-47.4 
MCV-85 MCH-26.6 MCHC-31.4* RDW-13.9 RDWSD-42.2 Plt ___
___ 12:45PM BLOOD Neuts-55.0 ___ Monos-12.1 Eos-2.9 
Baso-0.3 Im ___ AbsNeut-7.79* AbsLymp-4.09* AbsMono-1.71* 
AbsEos-0.41 AbsBaso-0.04
___ 12:45PM BLOOD Glucose-82 UreaN-23* Creat-1.1 Na-140 
K-5.7* Cl-102 HCO3-26 AnGap-12
___ 12:45PM BLOOD Calcium-9.5 Phos-3.9 Mg-2.2
___ 12:54PM BLOOD Type-ART pO2-46* pCO2-54* pH-7.37 
calTCO2-32* Base XS-3
___ 12:54PM BLOOD Lactate-1.5
___ 12:54PM BLOOD O2 Sat-75

OTHER PERTINENT LABS:
======================
___ 07:48AM BLOOD ___ pO2-86 pCO2-51* pH-7.37 
calTCO2-31* Base XS-2 Comment-GREEN TOP

IMAGING:
=========
___ CXR IMPRESSION: No acute cardiopulmonary abnormality.

DISCHARGE LABS:
================
___ 07:03AM BLOOD WBC-15.2* RBC-5.70 Hgb-14.8 Hct-47.0 
MCV-83 MCH-26.0 MCHC-31.5* RDW-13.7 RDWSD-40.3 Plt ___
___ 07:03AM BLOOD Glucose-100 UreaN-20 Creat-0.9 Na-141 
K-4.5 Cl-100 HCO3-23 AnGap-18
___ 07:03AM BLOOD Calcium-9.8 Phos-4.8* Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ with PMH of asthma who presents with 
shortness of breath, admitted with recurrent asthma 
exacerbation.

TRANSITIONAL ISSUES:
=====================
[] Will need flu shot as an outpatient 
[] Consider allergy testing as an outpatient 
[] Consider addition of Symbicort as an outpatient, particularly 
if symptoms worsen with cold-induced bronchospasm this 
___
[] Follow up resolution of leukocytosis with repeat CBC after 
completion of steroid taper

ACUTE ISSUES:
==============
# Asthma exacerbation
Diagnosed with asthma at ___, has not had an exacerbation since 
his initial diagnosis. Typically well-controlled with Albuterol 
PRN. Was previously advised to take Flovent, however he did not 
feel that it was effective so self-discontinued it. Likely 
triggered by prior inhaled marijuana use - notably only rarely 
uses it so seems less likely ABPA. Otherwise only new contact is 
his puppy, which he got 2.5mo ago so seems less likely the 
trigger. Denies rhinorrhea, hives, sick contacts, recent viral 
illnesses. Given ongoing wheezes, was treated IV 
Methylprednisolone 60mg BID through ___, after which he received 
one dose of IV Methylprednisolone 60mg. Starting on ___, he is 
to start 40mg PO Prednisone x7 days (prolonged course given 
recent recurrent decompensation). Was provided with Duonebs and 
albuterol nebs PRN. He had daily peak flows, with his initial 
best peak flow on admission 200. By discharge, his peak flow and 
improved to 350. He has follow up with his PCP ___ ___ for 
further follow up.

# Leukocytosis
Likely secondary to steroids. Monitored with daily CBC. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN SOB 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
2.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
3.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN SOB  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Asthma exacerbation

Secondary: 
Leukocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for shortness of breath due to an asthma 
flare. 

WHAT DID WE DO IN THE HOSPITAL: 
================================
- We gave you IV steroids to calm down the inflammation in your 
lungs
- We gave you nebulizer treatments
- You improved and were ready to be discharged home

WHAT TO DO ONCE HOME:
- We have scheduled an appointment at ___ for ___. Please 
call ___ on ___ to see if you can be scheduled any 
time sooner with a provider.
- Take your medications as prescribed
 
Followup Instructions:
___